US08802688B2
Step 2. 3-carbamoyl-1H-indazole-5-carboxylic acid
A suspension of methyl 3-cyano-1H-indazole-5-carboxylate (50.0 g, 249 mmol) in methanol (1 L) was cooled to 10° C. A solution of urea hydrogen peroxide (241 g, 2.49 mol) in sodium hydroxide (1 L of 2.5 N) and water (100 mL) was added dropwise, maintaining an internal temperature below 25° C. When the addition was complete, the ice bath was removed and the reaction was allowed to stir at room temperature for 16 hours. A small amount of unreacted starting material was observed by HPLC. The reaction was cooled to 15° C. and additional urea hydrogen peroxide (50 g) was added portionwise. Vigorous bubbling was noted. The reaction was allowed to stir for another 2 hours. The crude reaction was filtered to remove the solids present and the filtrate was concentrated to remove the methanol. The remaining solution was cooled in an ice bath and 6 N hydrochloric acid (420 mL) was added dropwise to adjust the pH to 4. The solution was stirred for 20 minutes and the resulting tan solid was collected by filtration and dried to give 57.2 g of crude product. To the crude was added acetonitrile (700 mL) and dichloromethane (700 mL) and the mixture was stirred at room temperature for 1 hour. The solid was collected by filtration, washed with 1:1 acetonitrile:dichloromethane (400 mL) and dried to give the title compound (39.5 g, 77%) as a tan solid. +ESI (M+H) 206.1; 1H NMR (DMSO-d6, δ): 13.81 (s, 1 H), 12.85 (br. s., 1 H), 8.82 (d, J=0.8 Hz, 1 H), 7.93 (dd, J=8.8, 1.6 Hz, 1 H), 7.79-7.85 (m, 1 H), 7.64 (d, J=8.6 Hz, 1 H), 7.44 (s, 1 H).

reactant | methyl 3-cyano-1H-indazole-5-carboxylate | 249 mmol, 50.0 g | C(#N)C1=NNC2=CC=C(C=C12)C(=O)OC | C10H7N3O2
reactant | urea hydrogen peroxide | 2.49 mol, 241 g | OO.NC(=O)N
reactant | acetonitrile | 700 mL | C(C)#N | C2H3N
reactant | dichloromethane | 700 mL | ClCCl | CH2Cl2
solvent | methanol | 1 L | CO | CH4O
solvent | sodium hydroxide | 2.5 N, 1 L | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 3-carbamoyl-1H-indazole-5-carboxylic acid | 39.5 g, 77% | C(N)(=O)C1=NNC2=CC=C(C=C12)C(=O)O | C9H7N3O3
